Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___
 
Chief Complaint:
 Diarrhea
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ year old male with metastatic melanoma - current treatment 
with   CTLA4 antibody - has received 2 doses; Second admit at 
___ for diarrhea within a week. Diarrhe felt to be autoimmune 
colitis related to treatment. He was discarged on ___ 
evening. On ___ during the day he had only 2 bowel 
movements. ___ night soon after taking his insulin dose he 
developed mulitple episodes of diarrhea. At this time he also 
had multiple episodes of vomitting as well as feeling very 
"shaky". He took his BP with an automatic BP cough and it was 
87/47. EMS was called and he was sent to ___ where 
he was admited and discharged on ___.
.
The patient was started on insulin during the ___ 
hospitalization. He says that his BG varied from 22 to 390. He 
claims to have been aymptomatic at 22. Prior to the episode of 
vomitting and shaking he had administered 8 units for a BG in 
the 300s.
.
After discharge from ___ he has been well with 
only 2 BM on ___ and one today. No more N/V. After further 
discussion with both Dr. ___ Dr. ___, Mr. ___ 
was asked to come to ___ Emergency room to be admitted for 
further management of diarrhea, nausea/vomiting, and possible 
dehydration.  He brought all medications and his CPAP.  
.
No diarrhea in ED, afebrile, guiac negative, no stool in rectal 
vault.  No arrival to the floor he is comfortable without 
complaints.
.
ROS: No F/C/S, no sorethroat, no lightheadness. No cough, sob, 
or cp. No palpatations. Mild abd "gas pains". Reports decreased 
urination without dysuria or hematuria. He does not some blood 
in his BMS intermittantly. 

 
Past Medical History:
Past medical/surgical history:  
Metastatic melanoma (see below)  
HTN  
DM2  
.  
Past oncologic history:  
Mr. ___ presented in ___ with a 5-mm 
malignant melanoma of stage IIC (T4, N0, M0, ___ level IV), at 
which time he had an excision and then he received interferon 
for 11 months. Four months later, he went in for follow up at 
the ___ and he developed a new right preauricular mass at the 
excision site and underwent reexcision as well as parotidectomy 
at the ___, followed by involved-field radiation with 5000 cGy in 
___ in ___. In ___, he developed lesions 
on his lips, right leg, left occiput, and left temple. All the 
lesions were excised and pathology revealed incompletely excised 
metastatic melanoma. He additionally underwent a CT scan of the 
torso on ___ which revealed lung, liver, soft 
tissue, bone, and adrenal metastasis. On ___, he 
underwent a CT scan of the brain that showed three lesions, two 
15 mm lesions in the right and left frontal lobes with 
associated edema, but no evidence of shift and a third lesion in 
the right frontoparietal lobe.  

 
Social History:
___
Family History:
Family history: (per OMR) His father had melanoma with extensive 
disease on his nose which required essentially entire excision 
of his nose and then he believes he developed metastatic 
disease. He died of an MI at age ___. His mother is ___ and still 
alive. He has no siblings. His children are all healthy.  
 
Physical Exam:
Physical exam  
Vitals: 97.0 141/62 67 18 100%RA  
General: Awake, alert, NAD, pleasant, poor memory, tangential 
but cooperative.  
HEENT: NCAT, PERRL, EOMI, no scleral icterus, MMM, no lesions 
noted in OP, melanoma lesions on lower lip and neck  
Neck: supple, no significant JVD or carotid bruits appreciated  
Pulmonary: Lungs CTA bilaterally, no wheezes, ronchi or rales  
Cardiac: RR, nl S1 S2, no murmurs, rubs or gallops appreciated  
Abdomen: soft, NT, ND, normoactive bowel sounds, no masses or 
organomegaly noted  
Extremities: No edema, 2+ radial, DP pulses b/l
Neuro: CN intact, ___ strength, A+Ox3

 
Pertinent Results:
___ 02:30PM   PLT COUNT-364
___ 02:30PM   NEUTS-94.2* LYMPHS-3.5* MONOS-2.1 EOS-0.1 
BASOS-0.1
___ 02:30PM   WBC-8.1# RBC-3.29* HGB-10.3* HCT-29.8* MCV-91 
MCH-31.4 MCHC-34.7 RDW-15.9*
___ 02:30PM   CALCIUM-7.9* MAGNESIUM-2.2
___ 02:30PM   GLUCOSE-205* UREA N-26* CREAT-0.9 SODIUM-138 
POTASSIUM-4.0 CHLORIDE-105 TOTAL CO2-23 ANION GAP-14

CT Ab/Pelv:
Results pending at time of discharge

MRI Head:
No evidence for progression of metastatic disease. Stable in 
size multiple 
metastasis with some lesions demonstrating reduced enhancement. 
Focal area of new enhancement seen on a single plane that may 
represent a new foci of 
disease or may represent artifact. Recommend close attention on 
follow-up 
examinations. Best seen on (9:18). 

 
Brief Hospital Course:
ASSESSMENT: ___ yo man with metastatic melanoma on CTLA4 antibody 
presents for furhter managment of diarrhea.  
.  
PLAN:  
.  
## Diarrhea: autoimmune colitis as a result of CTLA4 antiboday 
therapy. Stool culture last admisison no growth, C. diff 
negative. On admission his diarrhea is significantly better than 
it was on last discharge. Initially he had lots of diarrhea, but 
improved on IV steroids to have solid bowel movements.  He was 
discharged on 80mg prednisone twice a day.  
.  
## Metastatic melanoma: Pt reports great improvement in skin 
lesions since start of CTLA4 treatment.  Holding for now, will 
follow up with primary oncologist next week.  
.  
## DM2: Set home on ISS and lantus given high BG on steroids. It 
is clear that the patient is having difficulty explaining his 
insulin regimen and is most likely not taking it correctly. The 
episode of N/V and shaking occurded soon after taking insulin, 
perhaps the episode was the result of hypoglyemia.  His blood 
sugars were erratic in the hospital.  He was discharged home on 
25 ___ pen.  It was decided that having some elevated 
blood sugars was better that low blood sugars.  Will eventually 
need to be tapered as steroids tapered.  
.
## Bradycardia: Patient was noted to have asymptomatic 
bradycardia at night to the ___.  As his blood pressure was well 
controlled his atenolol was held.  
.  
## HTN: BP stable on admission, atenolol held secondary to 
bradycardia.  ___ eventually need to be restared as an 
outpatient.    
.  
## FEN/Lytes: Diabetic, cardiac diet, replete lytes prn, IVF 
.  
## Prophylaxis: Heparin SC 5000 tid  
.  
## Code status: FULL CODE  
 
Medications on Admission:
Medications on ___ d/c:
1. Loperamide 2 mg Capsule Sig: Two (2) Capsule PO Q6H (every 6 
hours).
Disp:*240 Capsule(s)* Refills:*2*
2. Simvastatin 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. Atenolol 25 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
4. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: Two (2) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).
Disp:*60 Capsule, Delayed Release(E.C.)(s)* Refills:*2*
5. Prednisone 10 mg Tablet Sig: Eight (8) Tablet PO DAILY 
(Daily).
Disp:*240 Tablet(s)* Refills:*2*
6. Doxazosin 2 mg Tablet Sig: One (1) Tablet PO once a day.  
7. Gemfibrozil 600 mg Tablet Sig: One (1) Tablet PO once a day.  

8. Insulin Glargine 100 unit/mL Solution Sig: Twenty (20) units 
Subcutaneous at bedtime.
Disp:*600 units* Refills:*2*
9. Insulin Regular Human 300 unit/3 mL Insulin Pen Sig: One (1) 
sliding scale Subcutaneous four times a day: Measure glucose 
levels before meals; See attached sliding scale for dosing 
instructions.
Disp:*1 pen* Refills:*2*
10. Insulin Syringe 1 mL 29 x ___  Syringe Sig: One (1) months 
supply Miscellaneous four times a day.
Disp:*1 months supply* Refills:*2*
11. Alcohol Pads     Pads, Medicated Sig: One (1) months supply 
Topical four times a day.
Disp:*1 months supply* Refills:*2*
12. Lisinopril 10 mg Tablet Sig: One (1) Tablet PO once a day.  
.
Changes made during Bridgton hospitaization:
D/ced insulin
Metformin 500mg BID
Lomotil one pill after every stool if gets diarrhea again.

 
Discharge Medications:
1. Insulin Glargine 300 unit/3 mL Insulin Pen Sig: ___ 
(25)  Subcutaneous at bedtime for 1 months: *Please instruct 
patient on use of pen
*Continue to take the insulin as long as you are on steroids.  
When you start to lower your predisone dose make sure to discus 
with your doctor changing your insulin dose as well. .
Disp:*QS QS* Refills:*2*
2. Acetaminophen 325 mg Tablet Sig: One (1) Tablet PO Q6H (every 
6 hours) as needed for pain, fever. Tablet(s) 
3. Loperamide 2 mg Capsule Sig: Two (2) Capsule PO QID (4 times 
a day) as needed for diarrhea.  
4. Prednisone 20 mg Tablet Sig: Four (4) Tablet PO twice a day 
for 1 months: Total of 80mg twice a day.
Disp:*240 Tablet(s)* Refills:*0*
5. Simvastatin 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
6. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: Two (2) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
7. Doxazosin 1 mg Tablet Sig: Two (2) Tablet PO HS (at bedtime). 
 
8. Gemfibrozil 600 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
9. Lisinopril 10 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary: 
Autoimmune colitis 
Diabetes mellitus, steroid-induced 
. 
Secondary: 
Metastatic melanoma 
Hypertension 

 
Discharge Condition:
Stable for discharge

 
Discharge Instructions:
You were admitted to the hospital for worsening diarrhea which 
is secondary to your treatment with CTLA4 antibody.  Your 
diarrhea was controled with high dose steroids, loperamide, and 
octreotide.
.
Your blood sugars were also difficult to control because of the 
steroids
.
Please stop your atenolol as your heart rate was low.  Discuss 
with your primary doctor when to restart this medication.  
.
The following changes were made to your medication regimen:
1) Prednisone changed to 80mg twice a day
2) Insulin glargine pen, 25 units at night.  
3) Atenolol stopped
.
Please follow up with your doctors as detailed below.
.
Call your doctor or return to the ED immediately if you 
experience worsening chest pain, shortness of breath, nausea, 
vomiting, abdominal pain, sweating, fevers, chills, bleeding, or 
other concerning symptoms.
.
In particular, if your diarrhea returns call ___ or Dr. 
___ as your medications may need to be adjusted further.
 

 
Followup Instructions:
___